2157-12-03 09:45:00 Physician Resident Progress Note
Chief Complaint:
   R colectomy for ischemic R proximal R colon
   24 Hour Events:
   Given 1L LR for low UOP with good response.
   Received
 unit RBCs this AM with subsequent fever; concern for
   transfusion reaction.
   Allergies:
   Hydromorphone
   Nausea/Vomiting
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2157-12-2**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2157-12-2**] 08:30 PM
   Metoprolol - [**2157-12-3**] 05:34 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Dry mouth, denies SOB, chest pain; minimal
   abdominal pain.  Some discomfort with deep inspiration
   Flowsheet Data as of  [**2157-12-3**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 115 (79 - 115) bpm
   BP: 145/47(78) {100/31(51) - 181/51(88)} mmHg
   RR: 19 (11 - 20) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  3,093 mL
                                                                  2,106 mL
   PO:
           TF:
   IVF:
                                                                  1,093 mL
                                                                  1,863 mL
   Blood products:
   244 mL
   Total out:
                                                                    820 mL
                                                                    235 mL
   Urine:
                                                                    520 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,273 mL
                                                                  1,871 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Labs / Radiology
   275 K/uL
   7.7 g/dL
   83 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   11 mg/dL
   104 mEq/L
   135 mEq/L
   22.0 %
   10.5 K/uL
        [image002.jpg]
                            [**2157-12-2**]  03:20 PM
                            [**2157-12-3**]  04:25 AM
   WBC
   15.0
   10.5
   Hct
   33.7
   22.0
   Plt
   312
   275
   Cr
   0.4
   0.6
   Glucose
   194
   83
   Other labs: PT / PTT / INR:14.4/28.7/1.3, ALT / AST:21/24, Alk Phos / T
   Bili:67/1.2, Albumin:3.0 g/dL, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 MESENTERIC ISCHEMIA, ACUTE
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
 .H/O HYPERTENSION, BENIGN
   78 yo F s/p ex- lap s/p right colon infarction and resection.
   # Decreased hematocrit:  33
22 this AM.  Concern for active bleeding
   given increased right flank ecchymoses and post op status.  Also, pt
   recently on plavix.  Had a possible transfusion reaction this am.  We
   are awaiting blood bank results.
   -          Maintain active type and screen
   -          hold SQ heparin.
   -          STAT Repeat Hct
   -          Holding plavix until no evidence of continued blood loss;
   will discuss with surgery teans
   .
   1. Right colon infarction: Pain well controlled Post-op; incision site
   CDI.  Will continue to monitor
   - IVF prn hypotension
   - continue vancomycin/zosyn for pos-op prophylaxis
   - pain control with PCA, [**Doctor Last Name 4268**] pump in surgical wound
   - NPO except meds for sips
   - stress dose steroids given
   - further management per surgery
   .
   #Hypertension/ Hypercholesterolemia: continue metoprolol
   - restart home meds in AM with able to take PO.
   #FEN: goal UOP >50cc/hr.  LR PRN
   ICU Care
   Nutrition:  NPO
   Glycemic Control:   ISS
   Lines:
   Multi Lumen - [**2157-12-2**] 04:00 PM
   Arterial Line - [**2157-12-2**] 04:00 PM
   Prophylaxis:
   DVT: SQ Heparin [**Hospital1 7**]
   Stress ulcer:  PPI
   Code status: FULL
   Disposition:  ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portion
   of the services provided. I have reviewed the note of Dr [**Last Name (STitle) 4021**] and
   agree with the findings and plan of care.  Following partial colectomy
   the patient appears to have lost blood into the abdomen and so for now
   her plavix has been held.  We have been in close contact with the
   general and vascular surgical teams and once her Hct is stable, we will
   restart her Plavix.  Transfusion reaction is being worked up.  She is
   hemodynamically stable  for now, with adequate BP and no CHF on CXR.
   Time spent: 35 [**First Name8 (NamePattern2) 83**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2157-12-3**] 20:52 ------

2157-12-04 06:52:00 Physician Resident Progress Note
Chief Complaint: s/o colectomy
   24 Hour Events:
   [**12-3**]
   - Noted 10 pt Hct drop before AMLs; febrile with 1/2 first blood
   transfusion; Transfused 1 u in am and 1 u in pm
   - Hct trend 22>21.5>24.6>27.7
   - I/O - goal even, negative; plan to monitor UOP
   - Vascular - asked for plavix to be restarted
   - coags wnl
   - Surgery - restarted plavix when hct stable, goal hct 30, goal BP 140s
   - increased lopressor to 10 mg iv q4
   - plan to likely d/c to floor in am
   Allergies:
   Hydromorphone
   Nausea/Vomiting
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2157-12-4**] 04:00 AM
   Metoprolol - [**2157-12-4**] 06:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Mild llq pain. Denies cp, sob, n/v, loc, dizziness.
   Flowsheet Data as of  [**2157-12-4**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.2
C (97.2
   HR: 97 (80 - 115) bpm
   BP: 142/38(71) {92/32(56) - 182/58(106)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (3 - 7)mmHg
   Total In:
                                                                  4,522 mL
                                                                    658 mL
   PO:
   TF:
   IVF:
                                                                  3,976 mL
                                                                    658 mL
   Blood products:
                                                                    546 mL
   Total out:
                                                                    745 mL
                                                                    330 mL
   Urine:
                                                                    745 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,777 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, a and ox3
   Eyes / Conjunctiva: PERRL
   Cardiovascular: rrr, 2/6 sem, nor/g
   Peripheral Vascular: distal pulses intact
   Respiratory / Chest:, Crackles : Right >Left
   Abdominal: Soft, midline incision that is clean, intact, ttp llq
   Skin:  Warm, large ecchymoses on left arm/chest wall
   Neurologic: moves all ext.s well
   Labs / Radiology
   208 K/uL
   10.0 g/dL
   95 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.5 mEq/L
   12 mg/dL
   107 mEq/L
   142 mEq/L
   27.7 %
   9.8 K/uL
        [image002.jpg]
                            [**2157-12-2**]  03:20 PM
                            [**2157-12-3**]  04:25 AM
                            [**2157-12-3**]  10:12 AM
                            [**2157-12-3**]  03:15 PM
                            [**2157-12-4**]  12:36 AM
                            [**2157-12-4**]  04:22 AM
   WBC
   15.0
   10.5
   11.3
   9.8
   Hct
   33.7
   22.0
   21.5
   24.6
   27.7
   27.7
   Plt
   [**Telephone/Fax (3) 4319**]08
   Cr
   0.4
   0.6
   0.4
   Glucose
   194
   83
   95
   Other labs: PT / PTT / INR:13.9/26.7/1.2, ALT / AST:21/24, Alk Phos / T
   Bili:67/1.2, Albumin:3.0 g/dL, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   78 yo F s/p ex- lap s/p right colon infarction and resection. POD #2.
   .
   #. Right colon infarction: Per surgical service, no major
   intraoperative complications.  Now with infarcted colon removed.  Cause
   for infarction includes emboli/acute thrombosis of known diseased
   arteries.  Also possibly jailing of collateral branch from celiac to
   right colon?  Regardless will evaluate patient overnight for signs of
   infection, blood loss.
   - pain control with PCA, [**Doctor Last Name 4268**] pump in surgical wound
   - futher managment per surgery
   - NPO except meds for sips
   - stress dose steroids given and plan to taper today per surgery
   .
   # Anemia: likely [**1-22**] surgical blood loss. Transfusion goal 30 per
   surgery
   - 1 U PRBC
   - check post transufison hct
   .
   #. Celiac stent: restarted plavix per vascular surgery
   .
   #. Hypertension: continue metoprolol 10 q4, hydralazine 10 q6 for goal
   SBP 140 per surgery
   .
   #. Hypercholesterolemia: restart home meds when surgery advances diet
   .
   # Access
 multilumen LIJ
   .
   # PPx
 ppi, holding sqh given concern for bleed, pneumoboots
   .
   # FEN
 sips, replete lytes, maintenance fluids, I/o goal even
   .
   # Dispo
 likely to surgical floor today
   # Contact  - with pt
   # Code
 full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-12-2**] 04:00 PM
   Arterial Line - [**2157-12-2**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed the note of Dr [**Last Name (STitle) 4058**] above
   and agree with the findings and plan of care.
   Patient looks and feels well this AM following right colectomy for
   ischemic colitis.  Initial blood loss appears to have stopped and she
   has responded well to our transfusions.  Plavix has been restarted
   without incident and we
ll also add subcut. Heparin.  She is stable
   enough to go to the floor where her stress steroids can be further
   tapered.
   Time spent in care of the patient: 30min
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2157-12-4**] 13:13 ------